US05102901
A mixture of 3.4 g (9.3 mmol) of 5-methyl-4-(methylamino) methyl-1-triphenylmethyl-1H-imidazole, 2.0 g (9.3 mmol) of 4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid, and 2.06 g (10 mmol) of N,N-dicyclohexylcarbodiimide in 100 ml of acetonitrile was stirred for 12 hours under nitrogen. The precipitate was sucked off and the filtrate was evaporated in vacuo. The residue was dissolved in ethylacetate and washed with 2 N sodium hydroxide and saturated saline respectively, and then evaporated in vacuo. The residue was chromatographed on silicagel using methylene chloride/methanol (95/5) as an eluent. After evaporating the desired fractions 3.6 g of N-methyl, N-[(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl]-4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxamide were obtained.

reactant | 5-methyl-4-(methylamino) methyl-1-triphenylmethyl-1H-imidazole | 9.3 mmol, 3.4 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC | C25H25N3
reactant | 4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | 9.3 mmol, 2.0 g | CC1N2C3=C(C=CC=C3CC1)C(=C2)C(=O)O | C13H13NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl]-4-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxamide | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)C1=CN2C(CCC3=CC=CC1=C23)C | C37H34N4O
